US07449466B2
Production Example 94 was repeated except that 1-(3-cyclohexylpropyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine was replaced with 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-methoxyphenyl)piperazin-1-yl]butan-1-one (330 mg). The resulting crude product was purified on TLC (developer, ethyl acetate: hexane=2:1) to provide 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-hydroxyphenyl)piperazin-1-yl]butan-1-one (146 mg).

reactant | 1-(3-cyclohexylpropyl)-4-(2,5-difluoro-4-methoxyphenyl)piperazine | C1(CCCCC1)CCCN1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F | C20H30F2N2O
reactant | 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-methoxyphenyl)piperazin-1-yl]butan-1-one | 330 mg | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F)=O | C25H32F2N2O2
product | 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-hydroxyphenyl)piperazin-1-yl]butan-1-one | 146 mg | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=C(C=C(C(=C1)F)O)F)=O | C24H30F2N2O2
